US03980650
5.4 g. (0.05 mol) of o-aminobenzonitrile, 4.7 g. (0.05 mol) of 2-furonitrile and 5.4 g. (0.1 mol) of sodium methoxide in 150 ml. of isopropanol are refluxed for 48 hours under a nitrogen atmosphere. The reaction mixture is then decomposed with water and the isopropanol is distilled off. 80 ml. of diethyl ether and 80 ml. of water are added and the precipitate is filtered off. The ethereal layer is separated and the ether is distilled off. The residue is identical to the solid already filtered off. The product is crystallized from a mixture of ethanol and petroleum ether (boiling range 40°-60°C.) to give 4-amino2-(2-furyl)quinazoline, m.p. 219°-221°C. The base is converted into the monohydrochloride, and the salt after crystallization from ethanol melts above 300°C.

reactant | o-aminobenzonitrile | 0.05 mol | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | 2-furonitrile | 0.05 mol | O1C(=CC=C1)C#N | C5H3NO
reactant | sodium methoxide | 0.1 mol | C[O-].[Na+]
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 4-amino2-(2-furyl)quinazoline | NC1=NC(=NC2=CC=CC=C12)C=1OC=CC1 | C12H9N3O
